US09163040B2
To (3R)-1-(((cyclohexyloxy)carbonyl)oxy)ethyl 3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoate (2.02 g, 3.49 mmol) was added 9 mL of 4M HCl in 1,4-dioxane. The reaction mixture was stirred at 23° C. for approximately 1 hour. The reaction mixture was evaporated approximately to dryness to afford (3R)-1-(((cyclohexyloxy)carbonyl)oxy)ethyl 3-amino-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoate (approximately 1.73 g, 104%) and taken directly to the next step. LCMS (ES+) C25H29ClFNO5: Calc.: 477.2; Found: 478.2[M+H]+.

reactant | (3R)-1-(((cyclohexyloxy)carbonyl)oxy)ethyl 3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoate | 3.49 mmol, 2.02 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)OC(C)OC(=O)OC1CCCCC1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C30H37ClFNO7
reactant | HCl | 4M, 9 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (3R)-1-(((cyclohexyloxy)carbonyl)oxy)ethyl 3-amino-4-(5′-chloro-2′-fluoro-[1,1′-biphenyl]-4-yl)butanoate | approximately 1.73 g, 104% | N[C@@H](CC(=O)OC(C)OC(=O)OC1CCCCC1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C25H29ClFNO5
